US06552017B1
To a solution of diethyl 2-methyl-1-oxo-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (300 mg, 0.77 mmol) in THF (10 mL) at rt was added BH3THF complex (3.8 mL, 3.8 mmol) and refluxed for 5 hours. At rt 6N HCl (10 mL) was added and stirred for 0.5 hour before the solution was diluted with water (20 mL), and extracted with EtOAc (2×20 mL). The combined extracts were dried over magnesium sulfate, concentrated, and purified by flash chromatography to afford diethyl 2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (200 mg, 69%) as a clear oil. MS [M+H]+374.

reactant | diethyl 2-methyl-1-oxo-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 0.77 mmol, 300 mg | CC1N(C=2C=CC=C3C2N(C1=O)C1C3CN(CC1)C(=O)OCC)C(=O)OCC | C20H25N3O5
reactant | HCl | 6N, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | diethyl 2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 200 mg, 69% | CC1N(C=2C=CC=C3C2N(C1)C1C3CN(CC1)C(=O)OCC)C(=O)OCC | C20H27N3O4
